US06090825
4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidine
A solution of 1-[4-(4 -chloromethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone (0.200 g, 0.627 mmol), prepared as in intermediate 3B, in ethanol (4.5 ml) is treated with a solution of NaOH (0.501 g, 12.55 mmol) in water (1/.5 ml). The reaction mixture is heated to 75 C for 48 hours, concentrated, and the residue partitioned between EtOAc and water. The aqueous phase is washed with EtOAc (twice). The organic phases are combined and washed with saturated brine, dried (Na2SO4) and concentrated to afford the title compound as a light orange oil.

reactant | 1-[4-(4 -chloromethyl-5-phenyl-oxazol-2-yl)-piperidin-1-yl]-ethanone | 0.627 mmol, 0.200 g | ClCC=1N=C(OC1C1=CC=CC=C1)C1CCN(CC1)C(C)=O | C17H19ClN2O2
reactant | NaOH | 12.55 mmol, 0.501 g | [OH-].[Na+]
reactant | ethanol | 4.5 ml | C(C)O | C2H6O
solvent | water | .5 ml | O | H2O
product | 4-(4-ethoxymethyl-5-phenyl-oxazol-2-yl)-piperidine | C(C)OCC=1N=C(OC1C1=CC=CC=C1)C1CCNCC1 | C17H22N2O2
